Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Left sided numbness
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
NEUROLOGY STROKE ADMISSION/CONSULT NOTE

No code stroke was called. 
 
The NIHSS, ICH score, GCS below were performed: 
Date: ___
Time: 23:45 

___ Stroke Scale score was : 1
1a. Level of Consciousness: 0
1b. LOC Question: 0
1c. LOC Commands: 0
2. Best gaze: 0
3. Visual fields: 0
4. Facial palsy: 0
5a. Motor arm, left: 0
5b. Motor arm, right: 0
6a. Motor leg, left: 0
6b. Motor leg, right: 0
7.  Limb Ataxia: 0
8.  Sensory: 1
9.  Language: 0
10. Dysarthria: 0
11. Extinction and Neglect: 0

GCS Score in the ED: 13 
ICH volume by ABC/2 method: 1 cc
ICH Score: 1 
Pre-ICH mRS: 0

Mr. ___ is ___ year old right handed man with no past medical
history who neurology has been consulted because of left sided
numbness and MRI brain with small right pontine bleed. 

Mr. ___ reports that last night he took a red eye flight from
___ to ___.  He arrived here at 0500.  He was normal 
and
had breakfast with his wife.  He went to gym at 0915.  He spent
some on a bicycle and was normal, but then started doing an
exercise where he squats and lifts heavy plates in a rowing
fashion.  He acutely started to feel nauseated and dizzy.  He
defined dizziness initially as lightheadedness, but then it
progressed to vertigo.  He also acutely felt numbness throughout
the left side of his body.  He continued to work out. 

He went home and continued to not feel well.  He took a nap.  He
woke up and went to the restroom and noticed that his left arm
and leg were numb, but then touched his left side of the face
with right arm and noticed that the lower portion was also numb. 

He asked his friend to take him to the hospital. 

He, in route, reported that being in a car made him more
nauseated and vertiginous.  He went ___.     

Mr. ___ blood pressure on presentation to ___ was 187/111. 
He was started on a nicardapine drip.  CBC and Chem7 normal.
Liver studies and normal.  Troponin negative.  NCHCT with small
acute hemorrahge within right side of pons.  

Mr. ___ currently reports that he feels fine with no nausea
or vertigo, but continues to endorse left sided numbness and
tingling.  He reports that the numbness and tingling in his face
has resolved and that the numbness and tingling in his arm and
leg have improved over the course of the day.  

ROS:
On neuro ROS, the patient denies headache, loss of vision,
blurred vision, diplopia, dysarthria, dysphagia, 
lightheadedness,
vertigo, tinnitus or hearing difficulty. 
Denies difficulties producing or comprehending speech.  Denies
focal weakness. No bowel or bladder incontinence or retention.
Denies difficulty with gait.
 
On general review of systems, the patient denies recent fever or
chills.  No night sweats or recent weight loss or gain. Denies
cough, shortness of breath.  Denies chest pain or tightness,
palpitations.  Denies nausea, vomiting, diarrhea, constipation 
or
abdominal pain.  No recent change in bowel or bladder habits.  
No
dysuria.  Denies arthralgias or myalgias. Denies rash.
 
 
 
Past Medical History:
None, but has not seen doctor in couple years.  He reports that
his doctor retired and he has been looking for another doctor.
 
Social History:
___
Family History:
No known family history of strokes or brain bleeds.  Mr. 
___
mother has a history of hypertension.
 
Physical Exam:
ADMISSION PHYSICAL EXAM:

Presentation vitals: 
Blood pressure: 151/96 on nicardapine drip 
Heart rate: 87 
Respiratory rate: 20 
Oxygen saturation: 98% 

General examination:
General: Comfortable and in no distress 
Head: No irritation/exudate from eyes, nose, throat 
Neck: Supple with no pain to flexion or extension 
Cardio: Regular rate and rhythm, warm, no peripheral edema 
Lungs: Unlabored breathing 
Abdomen: Soft, non tender, non distended 
Skin: No rashes or lesions 

Mental status:  
He is awake, alert, and cooperative with the exam.  He is
attentive, able to say months of the year backwards.  Fund of
knowledge is intact.  He is oriented to place and date.  
Language
is fluent.  Memory for recent and remote history is intact.  

Cranial nerves:  
Pupils are equal and reactive.  Extraocular movements are full. 
Facial sensation and movement are intact and symmetric.  Hearing
is intact to finger rub bilaterally.  Palate elevates
symmetrically.  SCM and trapezius are full strength bilaterally. 

Tongue is midline.  

Motor:  
Tone is normal.  He has no pronator drift.  Strength is full.    


Sensation:  
He reports that with crude touch there is reduced appreciation 
on
the left compared to the right just in all of his fingers.  He
feels that crude touch is 50% lighter.  He reports that pinprick
on the left side compared to the right is duller from the lower
forearm to include all fingers. He reports it is 50% duller 
here.
He then in the left leg throughout the entire distribution has a
patchy altered sensation of pinprick.  He tells me that from the
hip to the knee it is 50% duller, but then tells me from knee to
ankle it is largely normal.  He reports that throughout left 
foot
pinprick ranges from 50% to 90% duller compared to the right.  
He
can appreciate small upward and downward excursions of the thumb
and giant toe.  He can appreciate vibration for longer than 20
seconds in pads of thumbs and giant toes. 

Coordination: 
He has no rebound of arms.  He has smooth and fast alternating
movements and is accurate with tapping his index fingers to the
crease of his thumb.  FNF and HTS without dysmetria.   
  
Reflexes:  
He has brisk symmetric reflexes throughout, including pectoral,
cross abductor, and prepatellar.  No ankle clonus.  Plantar
reflexes are flexor. 

=============================================

DISCHARGE PHYSICAL EXAM:

Gen: overweight male in no distress
Pulm: breathing comfortably on RA
CV: RRR on tele, wwp
MS: alert and fully oriented to interval events, speech fluent
without dysarthria
CN: 
smaller right palpebral fissure, pupils 3->2, slight vertical
skew, doesn't ___ sclera fully in either direction, no
nystagmus with eye movements, right NLFF, tongue midline with
full excursions 
Motor: left pronation without drift, remainder full
sensory: decreased pin and LT on left arm and leg
Coordination: L dysmetria on FnF
Reflexes: brisk throughout with crossed adductors, toes down
======================================================
 
Pertinent Results:
___ 06:42AM BLOOD WBC-7.9 RBC-4.51* Hgb-13.5* Hct-41.9 
MCV-93 MCH-29.9 MCHC-32.2 RDW-12.9 RDWSD-43.9 Plt ___
___ 06:42AM BLOOD Neuts-63.4 ___ Monos-7.9 Eos-0.9* 
Baso-0.3 Im ___ AbsNeut-4.98 AbsLymp-2.12 AbsMono-0.62 
AbsEos-0.07 AbsBaso-0.02
___ 06:42AM BLOOD Plt ___
___ 06:42AM BLOOD Glucose-105* UreaN-15 Creat-1.3* Na-143 
K-4.2 Cl-106 HCO3-25 AnGap-12
___ 06:42AM BLOOD ALT-17 AST-12 LD(LDH)-135 CK(CPK)-57 
AlkPhos-54 TotBili-0.5
___ 06:42AM BLOOD CK-MB-<1 cTropnT-<0.01
___ 06:42AM BLOOD TotProt-6.9 Albumin-4.0 Globuln-2.9 
Cholest-189
___ 06:42AM BLOOD %HbA1c-5.8 eAG-120
___ 06:42AM BLOOD Triglyc-222* HDL-38* CHOL/HD-5.0 
LDLcalc-107
___ 11:14PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG
___ 06:42AM BLOOD CRP-4.8
___ 06:42AM BLOOD TSH-2.0

======================================================
MR HEAD W/O CONTRAST; OUTSIDE FILMS READ ONLY   
Reason: Second opinion request for OSH MRI/MRA

1. Examination is moderately degraded by motion.
2. Redemonstration of patient's known right pontine acute 
hemorrhage, compared
to same day noncontrast head CT.  Please note that underlying 
mass is not
excluded on the basis of this examination.
3. No evidence of acute infarction.
4. Paranasal sinus disease and nonspecific left mastoid fluid, 
as described.
5. A 3 x 1 mm linear outpouching emanating anteriorly from the 
anterior
communicating artery complex as described.  While finding may 
represent
fenestration, small aneurysm is not excluded on the basis of 
this examination.
6. Otherwise, grossly patent circle of ___ without definite 
evidence of
stenosis orocclusion.
 
Brief Hospital Course:
Patient is a ___ year old with history of untreated HTN and 
pre-DM who presented with dizziness and left hemibody sensory 
changes found to have right pontine hemorrhage. On presentation, 
his exam was notable for right NLFF, vertical skew, decreased 
sensation in left arm and leg consistent with a pontine process. 
Based on the description of this lesion on the MRI, it is most 
likely a hypertensive bleed in a cavernoma.

===============================================

#Right Pontine hemorrhage, likely hypertensive bleed, but a  
cavernoma is in the differential: Patient presented with acute 
onset of dizziness, gait unsteadiness and left hemibody 
numbness. The head CT and brain MRI confirmed a circumscribed 
right dorsolateral pontine hemorrhage. This is likely 
hypertensive given systolics >160 requiring a nicardipine gtt 
initially. Patient's exam at presentation was remarkable for 
fluent speech without dysarthria. Pupils are symmetric and 
reactive. There is subtle right eye ptosis as well as vertical 
skew. He complained of diplopia on right horizontal gaze which 
resolves with individual eye closure. He had left pronation 
without drift and he had normal strength and coordination. He 
had decreased sensation in left face arm and leg to pinprick, 
temperature. Prior to discharge, his exam remained stable except 
for resolved decreased sensation on the left side. Patient's 
blood pressure remained stable on captopril, which was 
transitioned to lisinopril 20 mg daily at the time of discharge. 
He was evaluated by ___ who recommended follow-up with outpatient 
___. Exam was stable on discharge although with smaller right 
palpebral fissure, slight left pronator drift, slight left 
dysmetria and some decreased cold sensation on left hand.

#Prior possible inferior infarct on EKG, stable and he reports 
prior noted with negative stress test: Troponin were negative, 
we recommend follow-up with PCP for consideration of cardiology 
consult.

#Pre-Diabetic: Patient's stroke labs were checked and A1c was 
found to be 6.1. Patient was counseled re diet.

#presumed OSA:
During this hospitalization, patient was noted to have 
desaturations to ___ to ___ briefly overnight. This led to a 
concern for obstructive sleep apnea. This was discussed with the 
patient, we recommend an outpatient sleep study and 
consideration CPAP if the study is positive.

=======================================================

Transitional issues :
[ ] Neurology: We recommend obtaining a repeat brain MRI with 
and without contrast with DTI sequences in three months. Patient 
should follow up with a neurologist, number for Atrius Neurology 
and ___ Neurology has been provided.

[ ] PCP: ___ was started doing this admission, please 
consider titration of medication based on patient’s blood 
pressure. Consider checking electrolytes in a few weeks after 
discharge.

[ ] PCP : ___ consider an out patient sleep study due to 
concern for obstructive sleep apnea.

[] NEUROSURGERY:
Please make an appointment for Neurosurgery follow-up in ___. ___

========================================================

AHA/ASA Core Measures for Intracerebral Hemorrhage
1. Dysphagia screening before any PO intake? (x) Yes - () No. If 
no, reason why:
2. DVT Prophylaxis administered? () Yes - (x) No: H'age -If no, 
why not (bleeding risk, hemorrhage, etc.)
3. Smoking cessation counseling given? (x) Yes - () No [reason 
() non-smoker - () unable to participate]
4. Stroke education (personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup) given in written 
form?
(x) Yes - () No
5. Assessment for rehabilitation and/or rehab services 
considered? (x) Yes - () No. If no, why not? (I.e. patient at 
baseline functional status)
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1.  Lisinopril 20 mg PO DAILY 
RX *lisinopril 20 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0 
2.Outpatient Physical Therapy
Diagnosis: intracranial hemorrhage
ICD 10: I61.9
Please evaluate and treat for gait ataxia

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
INTRACEREBRAL HEMORRHAGE
RIGHT PONTINE ACUTE HEMORRHAGE

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,
You were hospitalized due to symptoms of dizziness and left body 
sensory changes resulting from an ACUTE HEMORRHAGE in the brain.

Brain bleed can have many different causes, so we assessed you 
for medical conditions that might raise your risk of having 
these. In order to prevent future bleeds, we plan to modify 
those risk factors. Your risk factors are:

<> high blood pressure

We are changing your medications as follows:
<> start taking lisionpril 20 mg daily
<> Since this medication can alter your electrolytes, discuss 
blood check with your PCP

<> We recommend a repeat MRI in 3 months with and without 
contrast and follow up with a neurologist. 

<> We also recommended that you get a sleep study done, your PCP 
can help arrange this. 

Please take your other medications as prescribed.
Please follow up with Neurology and your primary care physician 
as listed below.
If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:
- Sudden partial or complete loss of vision
- Sudden loss of the ability to speak words from your mouth
- Sudden loss of the ability to understand others speaking to 
you
- Sudden weakness of one side of the body
- Sudden drooping of one side of the face
- Sudden loss of sensation of one side of the body

Sincerely,
Your ___ Neurology Team

 
Followup Instructions:
___